US20010027196A1
To a stirred solution of 100 mg (0.46 mmol) 6-amino-4-furan-2-yl-2-thioxo-1,2-dihydro-pyridine-3-carbonitrile in 3.4 ml ethanol were added 0.60 ml (1.60 mmol) sodium ethylate solution (2.67M in ethanol) and 368 mg (1,38 mmol) 2-(2-bromoethyl)pyridine hydrobromide and the reaction mixture heated at reflux for 1 hour. The reaction mixture was then concentrated in vacuo and the residue partitioned between dichloromethane and water. The organic phase was dried over sodium sulfate and concentrated in vacuo. The residue was triturated in ether to afford 112 mg (76%) 6-amino-4-furan-2-yl-2-(2-pyridin-2-yl-ethylsulfanyl)-nicotinonitrile as a white crystalline solid. ES-MS m/e (%): 323 (M+H+, 100).

reactant | 6-amino-4-furan-2-yl-2-thioxo-1,2-dihydro-pyridine-3-carbonitrile | 0.46 mmol, 100 mg | NC1=CC(=C(C(N1)=S)C#N)C=1OC=CC1 | C10H7N3OS
reactant | sodium ethylate solution | 1.60 mmol, 2.67M, 0.60 ml | CC[O-].[Na+]
reactant | 2-(2-bromoethyl)pyridine hydrobromide | 1,38 mmol, 368 mg | Br.BrCCC1=NC=CC=C1
solvent | ethanol | 3.4 ml | C(C)O | C2H6O
product | 6-amino-4-furan-2-yl-2-(2-pyridin-2-yl-ethylsulfanyl)-nicotinonitrile | 112 mg, 76% | NC1=NC(=C(C#N)C(=C1)C=1OC=CC1)SCCC1=NC=CC=C1 | C17H14N4OS
